US07238808B2
N-{4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-acetamide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 g, 1.0 mmol) and commercially available 4-bromoacetanilide (278 mg, 1.3 mmol) according to general procedure II. Obtained as a yellow solid (26 mg, 5.3%). MS (ISP) 489.3 [(M+H)+]; mp 238° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 g | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-bromoacetanilide | 1.3 mmol, 278 mg | CC(=O)NC1=CC=C(C=C1)Br | C8H8BrNO
product | N-{4-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-acetamide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)NC(C)=O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C24H14F6N4O
